US07425568B2
4-Cyano-2-nitro-1-(2-phenylchroman-6-yloxy)-benzene was prepared as described for 2-nitro-1-(2-phenylchroman-6-yloxy)-benzene in Example 29(a) except that 6-hydroxyflavane (0.453 g) was used in 10 ml of dry DMSO under nitrogen. Also KI (0.498 g) and KOH (0.224 g) and 4-chloro-3-nitro benzonitrile (0.365 mg) were added in similar manner. Product was purified by column chromatography (CH2Cl2:n-heptane/90:10 as the eluant). 1H-NMR (400 MHz; d6-DMSO): δ 8.64 (d, 1H, J=2.0 Hz), 8.06 (dd, 1H, J=8.8 Hz, J=2.1 Hz), 7.08 (d, 1H, J=8.8 Hz), 7.07-6.93 (m, 3H), 5.15 (dd, 1H, J=10.1 Hz, J=2.1 Hz), 3.05-2.91 (m, 1H), 2.82-2.70 (m, 1H), 2.24-2.12 (m, 1H), 2.08-1.92 (m, 1H).

reactant | 2-nitro-1-(2-phenylchroman-6-yloxy)-benzene | [N+](=O)([O-])C1=C(C=CC=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H17NO4
reactant | 6-hydroxyflavane | 0.453 g | OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C15H14O2
reactant | KOH | 0.224 g | [OH-].[K+]
reactant | 4-chloro-3-nitro benzonitrile | 0.365 mg | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 4-Cyano-2-nitro-1-(2-phenylchroman-6-yloxy)-benzene | C(#N)C1=CC(=C(C=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1)[N+](=O)[O-] | C22H16N2O4
